US04897401
A mixture of 6 parts of 4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidineacetonitrile and 200 parts of methanol, saturated with ammonia was hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 6 parts of N-[1-(2-amino-ethyl)-4-piperidinyl]-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine as a residue (int. 37).

reactant | 4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidineacetonitrile | CC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC#N | C20H23N5O
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | N-[1-(2-amino-ethyl)-4-piperidinyl]-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC=1OC(=CC1)C)C=CC=C2 | C20H27N5O
